US08110575B2
Step 4: (6-chloro-pyrimidin-4-yl)-(2-ethyl-6-fluoro-2,3-dihydro-indol-1-yl)-methanone
A mixture of 2.5 g (10 mmol) 2-ethyl-6-fluoro-2,3-dihydro-1H-indol in 25 mL dichloromethane was added at 0° C. to 1.8 g (10 mmol) 6-chloro-pyrimidine-4-carboxylic acid chloride in 25 mL dichloromethane and then 10 mL (10 mmol) of a 1M sodium hydroxide solution were added dropwise. The reaction mixture was stirred for 30 min at 0° C. and then for 1 h at RT. The organic phase was separated off and evaporated down. The residue was purified on silica gel.

reactant | 2-ethyl-6-fluoro-2,3-dihydro-1H-indol | 10 mmol, 2.5 g | C(C)C1NC2=CC(=CC=C2C1)F | C10H12FN
reactant | 6-chloro-pyrimidine-4-carboxylic acid chloride | 10 mmol | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (6-chloro-pyrimidin-4-yl)-(2-ethyl-6-fluoro-2,3-dihydro-indol-1-yl)-methanone | ClC1=CC(=NC=N1)C(=O)N1C(CC2=CC=C(C=C12)F)CC | C15H13ClFN3O
